US08809371B2
Sodium hydride (60% in oil) (6 mg) was added to a DMF (1 ml) solution containing 3-bromo-5-(1H-pyrrol-3-yl)pyridine (28 mg), followed by stirring. Methyl iodide (9 μl) was added, followed by stirring at room temperature for 3 hours. The reaction solution was poured into water, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Then, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=30:1 to 3:1), and a white solid of 3-bromo-5-(1-methyl-1H-pyrrol-3-yl)pyridine (18 mg) was thus obtained.

reactant | Sodium hydride | 6 mg | [H-].[Na+]
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | 3-bromo-5-(1H-pyrrol-3-yl)pyridine | 28 mg | BrC=1C=NC=C(C1)C1=CNC=C1 | C9H7BrN2
reactant | Methyl iodide | 9 μl | CI | CH3I
solvent | water | O | H2O
product | 3-bromo-5-(1-methyl-1H-pyrrol-3-yl)pyridine | 18 mg | BrC=1C=NC=C(C1)C1=CN(C=C1)C | C10H9BrN2
